US07115767B2
8-Bromo-2-tert-butoxycarbonylamino-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid
2-Amino-8-bromo-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid hydrochloride (180 mg, 0.5 mmol), prepared according to the procedure described in literature (J. Med. Chem; 1995, 38, 4056–4069), was suspended in dioxane (3 mL). 1N NaOH (1.5 mL) was added to make a clear solution. Di-tert-butyl dicarbonate (120 mg, 0.55 mmol) was added and the reaction mixture was stirred at room temperature for 48 hours. The mixture was diluted with ethyl acetate and 1N HCL, the organic phase was washed with brine, dried (MgSO4), filtered, concentrated to provide the titled compound as a brown solid. MS (ESI(−)) m/e 368, 370 (M−H)+; 1H NMR (300 MHz, DMSO-d6) δ 12.5 (bs, 1H), 7.43–7.37 (m, 1H), 7.24 (s, 1H), 7.13–7.02 (m, 2H), 3.12–2.62 (m, 4H), 1.95–1.78 (m, 2H), 1.36 (s, 9).

reactant | 2-Amino-8-bromo-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid hydrochloride | 0.5 mmol, 180 mg | Cl.NC1(CC2=C(C=CC=C2CC1)Br)C(=O)O
reactant | NaOH | 1N, 1.5 mL | [OH-].[Na+]
reactant | Di-tert-butyl dicarbonate | 0.55 mmol, 120 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-Bromo-2-tert-butoxycarbonylamino-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid | BrC=1C=CC=C2CCC(CC12)(C(=O)O)NC(=O)OC(C)(C)C | C16H20BrNO4
